US08357693B2
tert-butyl 5-(2-(3-((S)-2-(tert-butoxycarbonyl)propanamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
A suspension of (S)-2-(tert-butoxycarbonyl)propanoic acid (21 mg, 0.11 mmol), PyBOP® (57 mg, 0.11 mmol), DIEA (49 μL, 0.28 mmol) in CH2Cl2 (0.5 mL) was stirred at RT for 10-15 minutes. This solution of activated acid was added to a suspension of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (100 mg, 0.22 mmol) and CH2Cl2 (1 mL). The reaction mixture was stirred at RT for 1.5 h. Activated another 0.5 equivalent of the acid as described above and it was once again added to the reaction mixture. Stirred for 16 h, diluted with more CH2Cl2 and extracted with H2O (3×). Organic layer was dried under Na2SO4 and concentrated in vacuo to give the desired product tert-butyl 5-(2-(3-((S)-2-(tert-butoxycarbonyl)propanamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (95 mg, 69%).

reactant | (S)-2-(tert-butoxycarbonyl)propanoic acid | 0.11 mmol, 21 mg | C(C)(C)(C)OC(=O)[C@H](C(=O)O)C | C8H14O4
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.28 mmol, 49 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.22 mmol, 100 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(2-(3-((S)-2-(tert-butoxycarbonyl)propanamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)(C)OC(=O)[C@H](C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)C | C34H36N6O5
